US07842685B2
To a slurry of 2,2,2-trifluoro-1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo-[5,4-b]pyridine-2-yl)phenyl)ethanone (0.300 g, 0.68 mmol) in 2.2 mL toluene under nitrogen was added slowly dropwise lithium bis(trimethylsilyl)amide, 1.0 m solution in tetrahydrofuran (0.75 mL, 0.75 mmol) over 2-3 min. The reaction mixture became clear and yellow. After 15 min, borane-methyl sulfide complex, 2.0 M sol in THF (0.68 mL, 1.4 mmol) was added dropwise. The reaction mixture became dark red, and was allowed to stir 40 min. The reaction mixture was cooled to 0° C. and 1 mL 2 N NaOH was added very cautiously dropwise via syringe (gas evolution). The resulting yellow mixture was allowed to stir overnight, and then the reaction mixture was partitioned between water and EA. The organic layer was washed with sat'd aq. Sodium bicarbonate, 1× brine, dried over sodium sulfate, filtered, and purified in vacuo to give a yellow oil. The material was treated with DCM and passed through a Redi-Sep® pre-packed silica gel column (40 g) using 0-100% EtOAc/hexane. Product-containing fractions were combined and concentrated in vacuo, and the resulting material was purified by RPHPLC, 10-100% TFA/ACN in TFA/H2O. The purified fractions were combined and concentrated in vacuo to give racemic 2,2,2-trifluoro-1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl-)ethanamine trifluoroacetic acid salt as a white solid. MS (ESI) m/z: calculated: 443.1; Observed: 444.1 (M++1).

reactant | 2,2,2-trifluoro-1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo-[5,4-b]pyridine-2-yl)phenyl)ethanone | 0.68 mmol, 0.300 g | FC(C(=O)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F)(F)F | C23H14F4N2OS
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tetrahydrofuran | 0.75 mmol, 0.75 mL | O1CCCC1 | C4H8O
reactant | THF | 1.4 mmol, 0.68 mL | C1CCOC1 | C4H8O
reactant | NaOH | 2 N, 1 mL | [OH-].[Na+]
solvent | toluene | 2.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | DCM | C(Cl)Cl | CH2Cl2
product | racemic 2,2,2-trifluoro-1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl-)ethanamine trifluoroacetic acid salt | FC(C(=O)O)(F)F.FC(C(N)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F)(F)F | InChI=1S/C23H17F4N3S.C2HF3O2/c24-16-12-13(19(28)23(25,26)27)6-7-15(16)20-29-17-8-9-18(30-21(17)31-20)22(10-11-22)14-4-2-1-3-5-14;3-2(4,5)1(6)7/h1-9,12,19H,10-11,28H2;(H,6,7)
